US04059447
by ester condensation, e.g. by the reaction of oxalic acid or its diethylester with ethyl chloroacetate in the presence of sodium ethylate, α-chloro-β-keto-succinic acid ethyl ester is obtained in accordance with the following reaction scheme:

reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | ethyl chloroacetate | ClCC(=O)OCC | C4H7ClO2
reactant | sodium ethylate | CC[O-].[Na+]
product | α-chloro-β-keto-succinic acid ethyl ester | C(C)OC(C(C(C(=O)O)=O)Cl)=O | C6H7ClO5
